US09145414B2
Triethylamine (1.25 mL) and methanesulfonyl chloride (0.457 mL) were added to a solution of tert-butyl((2S,3S)-1-ethoxy-3-hydroxybutan-2-yl)carbamate obtained in the above-described Step 2 (1.06 g) in THF (20 mL), and the reaction solution was stirred at room temperature for 20 minutes. 10% Aqueous phosphoric acid solution was added to the reaction solution. Thereafter, the reaction solution was extracted with ethyl acetate and washed successively with a saturated aqueous sodium bicarbonate solution and a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. DMF (10 mL) and tetrabutylammonium azide (2 g) were added to the resultant residue, and the reaction solution was stirred at 70° C. for 2 hours. The reaction solution was returned to room temperature, then diluted with diethyl ether, and washed with water and a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate), and the solvent was evaporated under vacuum. THF (5 mL) and ethanol (5 mL) were added to the resultant residue, and 10% palladium on carbon (600 mg) was added under nitrogen atmosphere. The reaction solution was stirred under hydrogen atmosphere at room temperature overnight. The insolubles were filtrated, and the solvent was evaporated under vacuum to obtain tert-butyl((2R,3R)-3-amino-1-ethoxybutan-2-yl)carbamate as a colorless oily substance.

reactant | Triethylamine | 1.25 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.457 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl((2S,3S)-1-ethoxy-3-hydroxybutan-2-yl)carbamate | C(C)(C)(C)OC(N[C@@H](COCC)[C@H](C)O)=O | C11H23NO4
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl((2R,3R)-3-amino-1-ethoxybutan-2-yl)carbamate | C(C)(C)(C)OC(N[C@@H](COCC)[C@@H](C)N)=O | C11H24N2O3
